US04005077
A solution of 25 g (0.036 mol) of rifamycin S in 50 ml of dioxane is mixed with 20 ml (0.2 mol) of 4-methylpiperidine and left to stand at 20° C until the reaction mixture, which is initially deep violet in colour has assumed an orange-yellow colour. The reaction mixture is now diluted with water, acidified to pH 5 and extracted with chloroform. After drying and evaporating the chloroform extract, the evaporation residue is dissolved in methanol and mixed dropwise with concentrated ascorbic acid solution. After standing for some time yellow crystals separate out and are filtered off and twice recrystallised from 80 % strength aqueous methanol. 3-(4-methylpiperidino)-rifamycin SV is thus obtained in crystals of melting point 185°-186° C.

reactant | rifamycin S | 0.036 mol, 25 g | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
reactant | 4-methylpiperidine | 0.2 mol, 20 ml | CC1CCNCC1 | C6H13N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-(4-methylpiperidino)-rifamycin | C[C@H]1/C=C/C=C(\C(=O)NC2=C(C3=C(C4=C(C(=C3O)C)O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]1O)C)O)C)OC(=O)C)C)OC)C)C(=C2N5CCC(CC5)C)O)O)/C | C43H58N2O12
